US07265246B2
G. C-(5-Phenylthiophen-3-yl)methylamine
Prepare a solution of 2-(5-phenylthiophen-3-ylmethyl)isoindole-1,3-dione (565 mg, 1.77 mmol) in methanol (57 mL). Add hydrazine (0.35 mL, 11.14 mmol). Heat the mixture to reflux. After stirring for 1 hour, cool the mixture to room temperature and concentrate. Perform flash chromatography on silica gel eluting with 50:40:9:1 methylene chloride/CHCl3/MeOH/concentrated NH4OH to afford 280 mg of the title compound as a yellow solid. MS: m/e=190 [MH+].

reactant | 2-(5-phenylthiophen-3-ylmethyl)isoindole-1,3-dione | 1.77 mmol, 565 mg | C1(=CC=CC=C1)C1=CC(=CS1)CN1C(C2=CC=CC=C2C1=O)=O | C19H13NO2S
reactant | hydrazine | 11.14 mmol, 0.35 mL | NN | H4N2
solvent | methanol | 57 mL | CO | CH4O
product | C-(5-Phenylthiophen-3-yl)methylamine | 280 mg | C1(=CC=CC=C1)C1=CC(=CS1)CN | C11H11NS
